* AD8221 Precision instrumentation amplifier macro-model
* High CMRR, low noise
.subckt AD8221 1 2 6 7 4
* pins: non-inv inv out v+ v-
* High impedance inputs
RIN+ 1 4 100e9
RIN- 2 4 100e9
* Very high gain (adjustable via RG)
EGAIN 3 0 1 2 1
* Low impedance output
ROUT 3 6 10
COUT 6 4 5p
.ENDS AD8221
