* INA128 Precision instrumentation amplifier macro-model
* Low offset voltage, high CMRR
.subckt INA128 1 2 6 7 4
* pins: non-inv inv out v+ v-
* High impedance inputs
RIN+ 1 4 10e9
RIN- 2 4 10e9
* Programmable gain (1 + 50k/RG)
EGAIN 3 0 1 2 1
* Low output impedance
ROUT 3 6 25
COUT 6 4 3p
.ENDS INA128
