* LM324 Quad operational amplifier macro-model
* Low power, single supply, rail-to-rail input
.subckt LM324 1 2 6 7 4
* pins: non-inv inv out v+ v-
* Input stage
RIN+ 1 4 2MEG
RIN- 2 4 2MEG
* Gain stage
EGAIN 3 0 1 2 100000
* Output stage
ROUT 3 6 100
COUT 6 4 10p
.ENDS LM324
