* LM386 Low voltage audio power amplifier macro-model
* Power amplifier with internal gain
.subckt LM386 1 2 6 7 4
* pins: non-inv inv out v+ v-
* Input stage
RIN+ 1 4 50k
RIN- 2 4 50k
* Voltage gain (20 default, up to 200)
EGAIN 3 0 1 2 20
* Power output stage
ROUT 3 6 5
COUT 6 4 100p
.ENDS LM386
