* MCP6001 Low-power operational amplifier macro-model
* Rail-to-rail input/output, 1.8V to 6V operation
.subckt MCP6001 1 2 6 7 4
* pins: non-inv inv out v+ v-
* Rail-to-rail input
RIN+ 1 4 10MEG
RIN- 2 4 10MEG
* Gain stage
EGAIN 3 0 1 2 100000
* Rail-to-rail output
ROUT 3 6 150
COUT 6 4 8p
.ENDS MCP6001
