* NE5532 Low-noise dual operational amplifier macro-model
* Audio-grade, high slew rate
.subckt NE5532 1 2 6 7 4
* pins: non-inv inv out v+ v-
* High impedance input stage
RIN+ 1 4 300k
RIN- 2 4 300k
* High gain stage
EGAIN 3 0 1 2 300000
* Low impedance output
ROUT 3 6 50
COUT 6 4 3p
.ENDS NE5532
