* OP07 Ultra-low offset voltage operational amplifier
* Precision applications
.subckt OP07 1 2 6 7 4
* pins: non-inv inv out v+ v-
* High impedance input
RIN+ 1 4 50MEG
RIN- 2 4 50MEG
* High gain
EGAIN 3 0 1 2 1200000
* Output stage
ROUT 3 6 60
COUT 6 4 4p
.ENDS OP07
