* Simplified LM741 operational amplifier macro-model
.subckt LM741 1 2 6 7 4
* pins: non-inv inv out v+ v-
EGAIN 3 0 1 2 1000000
ROUT 3 4 100
COUT 3 4 5p
RIN+ 1 4 1MEG
RIN- 2 4 1MEG
.ENDS LM741
