* Simplified TL081 FET-input op-amp macro-model
.subckt TL081 1 2 6 7 4
* pins: non-inv inv out v+ v-
EGAIN 3 0 1 2 1000000
ROUT 3 4 60
COUT 3 4 4p
RIN+ 1 4 10MEG
RIN- 2 4 10MEG
.ENDS TL081
